US08802697B2
5-bromo-2-fluoronicotinaldehyde (3.0 g, 14.78 mmol), guanidine hydrochloride (1.69 g, 17.74 mmol) and triethylamine (4.48 g, 44.35 mmol) were dissolved in 1-methyl-2-pyrrolidinone (15 mL), and the reaction mixture was stirred at 180° C. for 15 min under microwave. The mixture was cooled to RT, quenched with water (200 mL) and extracted with ethyl acetate (2×300 mL). The organic layers were combined, washed with water (3×50 mL) and brine (3×50 mL), dried over sodium sulfate, filtered, and concentrated to afford a crude product, which was purified by silica gel column chromatography (ethyl acetate:petroleum ether=3:1) to afford 6-bromopyrido[2,3-d]pyrimidin-2-amine (2.0 g, 60%) as a yellow solid. MS (ES+) C7H5BrN4 requires: 224, 226. found: 225, 227 [M+H]+.

reactant | 5-bromo-2-fluoronicotinaldehyde | 14.78 mmol, 3.0 g | BrC=1C=NC(=C(C=O)C1)F | C6H3BrFNO
reactant | guanidine hydrochloride | 17.74 mmol, 1.69 g | Cl.NC(=N)N
reactant | triethylamine | 44.35 mmol, 4.48 g | C(C)N(CC)CC | C6H15N
solvent | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | 6-bromopyrido[2,3-d]pyrimidin-2-amine | 2.0 g, 60% | BrC1=CC2=C(N=C(N=C2)N)N=C1 | C7H5BrN4
